US05674909
Preparation of (S)-N-propyl-5,6-di(phenylmethoxy)-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride (Intermediate 27)
A solution of HCl in ethyl acetate (13% w/v) (250 ml) was added to a solution of (S)-N-t.butoxycarbonyl-N-propyl-5,6-di(phenylmethoxy)-1,2,3,4-tetrahydro-2-naphthylamine (23 g; 45.8 mmoles) in ethyl acetate (100 ml), under stirring at room temperature.

reactant | HCl | Cl | ClH
reactant | butoxycarbonyl-N-propyl-5,6-di(phenylmethoxy)-1,2,3,4-tetrahydro-2-naphthylamine | 45.8 mmoles, 23 g | C(CCC)OC(=O)N(CCC)C1CC2=CC=C(C(=C2CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H39NO4
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (S)-N-propyl-5,6-di(phenylmethoxy)-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | Cl.C(CC)N[C@@H]1CC2=CC=C(C(=C2CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C27H31NO2.ClH/c1-2-17-28-24-14-15-25-23(18-24)13-16-26(29-19-21-9-5-3-6-10-21)27(25)30-20-22-11-7-4-8-12-22;/h3-13,16,24,28H,2,14-15,17-20H2,1H3;1H/t24-;/m0./s1
